US04584285
To a solution of 4-nitrophenylalanine, ethylester, hydrochloride (2.3 g) in dichloromethane (10 ml), add triethylamine (2.55 ml) and then t-butyl 2(R)-(trifluoromethanesulfonyloxy)propionate (2.80 g) (see Preparation 4) in dichloromethane (10 ml). Stir the resulting solution at room temperature for 20 hours. Concentrate the reaction mixture, add diethyl ether and extract with salt solution. Dry over magnesium sulfate and concentrate the ether solution in vacuo to give an oil. Place the oil on a column of silica gel (100 ml, 60-200 mesh) and elute with diethyl ether:hexane 60:40 to give N-[1(S)-ethoxycarbonyl)-2-(4-nitrophenyl)ethyl]-(S)-alanine, t-butyl ester.

reactant | triethylamine | 2.55 ml | C(C)N(CC)CC | C6H15N
reactant | t-butyl 2(R)-(trifluoromethanesulfonyloxy)propionate | 2.80 g | FC(S(=O)(=O)O[C@@H](C(=O)OC(C)(C)C)C)(F)F | C8H13F3O5S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (S)-alanine, t-butyl ester | N[C@@H](C)C(=O)OC(C)(C)C | C7H15NO2
